Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I've broken up with my girlfriend." 

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
For further details of the history and presentation, please see 
___, including initial consultation note by Dr. ___ 
dated ___, Dr. ___ dated ___ and collateral 
by Dr. ___ dated ___. 
. 
Briefly, this is a ___ year old employed woman, college graduate, 
history of numerous prior concussions, depression with no prior 
psychiatric hospitalizations s/p one prior suicide attempt at 
age ___, who presented to ___ ED via EMS due for a safety 
evaluation due to reports of SI to her ex girlfriend. 
. 
ED Course: patient was in good behavioral control and did not 
require physical or chemical restraints. Of note, collateral was 
obtained from her ex-girlfriend who reported patient had been 
sending suicidal text messages to her with concern that patient 
retracted suicidal ideation in order to get out of the ED. 
. 
On my interview with Ms. ___, who was a reliable historian, 
she confirmed the history initially presented in the ED. 
Reported that approximately 6 weeks ago she broke up with her 
girlfriend of ___ years. Ms. ___ noted that prior to their 
break up, her girlfriend, ___ "had been overwhelmed-- she 
wanted to move in, so we moved in together but then she decided 
2 days after that she didn't want to live together." Patient 
stated she graduated from ___ in ___ and following 
graduation, she and ___ traveled to ___ together and when 
they returned, ___ decided she wanted to move to ___. A 
week later, ___ let for ___, "I thought we were taking a 
break but ___ thought it was a break up." Ms. ___ found the 
separation difficult and she and ___ had planned to talk in 
___, "but things were eating at me and so I called her last 
night." 
. 
Ms. ___ stated that she talked with ___ yesterday and "we 
caught up." During this conversation, her ex girlfriend said, "I 
don't see us getting back together... I have feelings for 
someone else" and then learned that ___ was seeing another 
woman who attended ___ school with her." During this 
conversation, patient reported that she became overwhelmed and 
frustrated, having a panic attack with difficulty calming 
herself down. She stated that ___ knew she had a history of 
depression and SI in the past and asked her if she was safe. 
Patient stated she could not respond because she was so upset 
and so ___ called the police and she was brought to the ED. 
. 
In the setting of a recent break up, patient reported feeling 
somewhat sad but denied anhedonia. Reported she had been going 
to work and the gym and functioning adequately. Reported she has 
had some difficulty sleeping at night. Reported low energy, but 
denied difficulties with concentration. Reported decreased 
appetite and a 5 pound weight loss. Denied SI, but did state 
that yesterday she thought that "I didn't want to be here." 
. 
On psychiatric review of systems, patient denied history of 
mania including decreased need for sleep, elevated mood, 
grandiosity. Denied history of psychosis. Reported phobia in the 
past of bathrooms. +history of anxiety and panic attacks.
 
Past Medical History:
Past Psychiatric History: 
- Diagnoses: depression, anxiety 
- SA/SIB: patient reports near suicide attempt during her senior
year of high school where she tied a noose with some rehearsal
behaviors. Of note, in ED, patient endorsed SA during her
freshman year in college following a concussion. Denies history
of SIB 
- Hospitalizations: denies 
- Psychiatrist: none, was previously seen at ___ 
- Therapist: None 
- Medication Trials: SSRI  
. 
Past Medical History: 
- history of numerous concussions 

 
Social History:
Substance History:  
- Alcohol: reported occasional use, 2 beers weekly
- Illicits: has used cannabis in the past, last use was 3 months 
ago
- Tobacco: denies 
.
Social History: Per OMR, patient: born and raised in ___ as the younger twin with a brother who is 2 
minutes older. Mother works as a urogynecol___ and owns two 
___; father is from ___ and is a former ___. 
Patient reported her mother is "nice... hardworking" but states 
she was not around when she was growing up as she was working. 
Stated her parents pushed both of them and were "hard on us," 
describing her father as a "___ dad." Attended boarding 
school and notes that her senior year was very difficult due to  
concussion. Attended ___ where she played hockey for a year, 
then had to stop due to concussion. Graduated in ___ with a
degree in psychology with a concentration in cognitive 
neuro/pre-med curriculum. Stated her parents had been pressuring 
her to attend medical school, but now she intends on applying to 
___ psych PhD program, which her parents are not supportive of. 
Also notes she recently came out as gay to her parents which 
"they didn't take well." Currently lives in ___ in an 
apartment and works as a ___ at ___. 
Denies history of legal issues, access to guns. 

 
Family History:
- Diagnoses: denies
- Suicides: denies 
- Addictions: denies 

 
Physical Exam:
Vital Signs:   97.8    72    129/78    16    99% RA 
Mental Status Examination: 
A/B: Appears stated age, dressed in hospital gown, good hygiene
and grooming, tearful at times, good eye contact, no psychomotor
agitation or retardation noted
S: normal rate, volume, prosody, goal directed
M: "not good" 
A: dysthymic at times, mood congruent, appropriate
TC: see above
TP: linear, logical, goal and future oriented
C: awake, alert and oriented x3 
M: short and long term memory grossly intact
I/J: fair/fair 

GENERAL 
- HEENT: Normocephalic, atraumatic. MMM, oropharynx clear
- Cardiovascular: RRR. Normal S1/S2. No murmurs/rubs/gallops. 
- Pulmonary: CTAB. No wheezes/rales/rhonchi 
- Abdominal: (+) BS. Non-distended. Non-tender. 
- Extremities: warm and well-perfused, no cyanosis or edema. +2
pedal pulses

- Cranial Nerves: 
     - I: olfaction not tested 
     - II: PERRL 4 to 3 mm, both directly and consentually; 
brisk
bilaterally, VFF to confrontation 
     - III, IV, VI: EOMI without nystagmus 
     - V: facial sensation intact to light touch in all
distributions 
     - VII: no facial droop, facial musculature symmetric 
     - VIII: hearing intact to finger rub bilaterally 
     - IX, X: palate elevates symmetrically 
     - XI: ___ strength in trapezii and SCM bilaterally 
     - XII: tongue protrudes in midline 
- Motor: Normal bulk and tone. No abnormal movement, no tremor. 

  Delt Bic Tri WrE IP Quad Ham TA Gastroc 
L   ___   ___   ___ 
R   ___   ___   ___ 

- Sensory: no deficits to fine touch throughout 
- DTRs: 
  Bi Tri ___ Pat Ach 
L ___     2   1 
R ___     2   1

Plantar response flexor bilaterally

- Coordination: normal on finger to nose test, no intention
tremor noted

 
Pertinent Results:
___ 02:00AM URINE  UCG-NEGATIVE
___ 02:00AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 01:54AM   GLUCOSE-104* UREA N-16 CREAT-1.1 SODIUM-140 
POTASSIUM-3.9 CHLORIDE-108 TOTAL CO2-19* ANION GAP-13
___ 01:54AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 01:54AM   WBC-8.1 RBC-4.06 HGB-12.3 HCT-36.4 MCV-90 
MCH-30.3 MCHC-33.8 RDW-11.7 RDWSD-38.0
___ 01:54AM   NEUTS-75.3* LYMPHS-18.4* MONOS-5.2 EOS-0.2* 
BASOS-0.5 IM ___ AbsNeut-6.06 AbsLymp-1.48 AbsMono-0.42 
AbsEos-0.02* AbsBaso-0.04
___ 01:54AM   PLT COUNT-257
 
Brief Hospital Course:
This is a ___ year old employed woman, college graduate, history 
of numerous prior concussions, depression with no prior 
psychiatric hospitalizations s/p one prior suicide attempt at 
age ___, who presented to ___ ED via EMS due for a safety 
evaluation due to reports of SI to her ex girlfriend. 
. 
History notable for apparent prior depression and anxiety with 
patient admitting to prior SI and suicidal vs. parasuicidal 
behaviors in the context of recent concussions. At this time, 
patient is reporting "sad" mood in the setting of recent breakup 
with her girlfriend and ___ as noted above. Patient notably 
minimizeds presentation, stating she had thoughts she "was not 
here," but denies intent on my examination. Collateral from 
ex-girlfriend, however, was concerning for suicidal text 
messages as noted in Dr. ___ note. Mental 
status examination on admission was notable for a well groomed 
young woman who is relatively calm, cooperative, with sad mood, 
somewhat dysthymic affect who is tearful on examination. Thought 
process notably linear, logical, goal and future oriented. 
. 
Diagnostically, differential diagnosis includes MDD without 
psychotic features vs. adjustment disorder. I cannot rule out 
underlying character pathology at this time with cluster B 
traits. Nothing in her history to support a diagnosis of BPAD 
given no history of mania. In addition, nothing to suggest a 
history of psychosis. Likely does meet criteria for anxiety 
disorder, including panic disorder. No known history of trauma 
to support a diagnosis of PTSD. No history of substance use and 
toxicology screen was negative in ED-- I do not believe that 
substance use is contributing to her current presentation. 
Unclear if her history of head trauma is currently contributing 
to her depression; although clearly her history of concussions 
is a stressor. 
. 
#. Legal/Safety: patient admitted to ___ on a ___, upon admission she signed a CV, which was accepted. Of note, 
patient maintained her safety throughout her hospitalization on 
15 minute checks and did not require physical or chemical 
restraints. 
. 
#. Adjustment disorder with depressed and anxious features: 
- Patient was compliant in attending groups and meeting with her 
treatment team; she participated appropriately in her care. 
- Discussed the risks and benefits of initiation of an 
antidepressant for mood and anxiety, which the patient declined, 
stating she would prefer therapy at this time but would consider 
as an outpatient.  
- Of note, the patient consistently denied SI or thoughts of 
self harm during this admission and was amenable to following up 
with outpatient providers. She was able to identify supports 
while in the hospital, which she found helpful. 
- Patient declined to allow us to contact her parents during 
this hospitalization. 
- Given her consistent denial of SI, engagement in care, patient 
was discharged with referral to outpatient treaters. 
.  
#. Medical: no acute medical issues during this hospitalization 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  ___ ___ Fe (norethindrone-e.estradiol-iron) 1 mg-20 mcg 
(24)/75 mg (4) oral daily  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Adjustment disorder, with depressed mood 
Phobia 

 
Discharge Condition:
98.1   PO ___    16    98%RA 
A/B: Appears stated age, dressed casually with good hygiene and 
grooming, calm, cooperative with interviewer, good eye contact, 
no psychomotor agitation or retardation noted
S: normal rate, volume, prosody 
M: 'good' 
A: euthymic, full range, appropriate
TC: see above 
TP: linear, logical, goal and future oriented
C: awake, alert and oriented x3 
I/J: fair/fair   

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___